US08455488B2
Synthesis of (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinoxalin-5-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-8)
According to the procedure described in the synthesis method of Compound III-1, (S)-1,1-diethoxy-N-(quinoxalin-5-ylmethyl)propan-2-amine (Compound IX-8) 1.93 g (6.65 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid 3.36 g (7.31 mmol) and purified on Buch silica gel column chromatography (chloroform:methanol=100:0 to 98:2) to obtain the title compound 2.35 g (48%).

reactant | (S)-1,1-diethoxy-N-(quinoxalin-5-ylmethyl)propan-2-amine | 6.65 mmol, 1.93 g | C(C)OC([C@H](C)NCC1=C2N=CC=NC2=CC=C1)OCC | C16H23N3O2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 7.31 mmol, 3.36 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinoxalin-5-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 2.35 g, 48% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=C2N=CC=NC2=CC=C1)[C@H](C(OCC)OCC)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C44H50N4O6
